US04302239
b. Formation of 3-[5-(1,1-dimethylethyl)-3-isoxazolyl]-4,5-dihydroxy-1-methyl-2-imidazolidinone
To a solution of 2.0 grams (0.010 mole) of 1-[5-(1,1-dimethylethyl)-3-isoxazolyl]-3-methylurea in 50 milliliters of 95 percent ethanol was added 7.3 grams of a 40 percent aqueous glyoxal solution which had been previously adjusted to pH 7 with dilute sodium hydroxide solution. After standing at room temperature overnight, the solution was topped on a rotary evaporator to give an oily residue which was extracted with two 20 milliliter portions of chloroform. The extract was washed with saturated sodium chloride solution, filtered through silicone-treated paper, and concentrated on a rotary evaporator to give 2.0 grams of oily residue. Crystallization from ether gave 0.4 grams of white crystals of 3-[5-(1,1-dimethylethyl)-3-isoxazolyl]-4,5-dihydroxy-1-methyl-2-imidazolidinone, M.P. 153°-157° C., which had consistent mass, infrared and NMR spectra.

reactant | 1-[5-(1,1-dimethylethyl)-3-isoxazolyl]-3-methylurea | 0.010 mole, 2.0 grams | CC(C)(C)C1=CC(=NO1)NC(=O)NC | C9H15N3O2
reactant | glyoxal | C(=O)C=O | C2H2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 50 milliliters | C(C)O | C2H6O
product | 3-[5-(1,1-dimethylethyl)-3-isoxazolyl]-4,5-dihydroxy-1-methyl-2-imidazolidinone | 2.0 grams | CC(C)(C)C1=CC(=NO1)N1C(N(C(C1O)O)C)=O | C11H17N3O4
